US07074800B1
A mixture of 4-chloro-6-methoxy-7-(3-piperidinopropoxy)quinazoline (222 mg, 0.662 mmol), (prepared as described for the starting material in Example 67), and 6-fluoro-5-hydroxyindole (120 mg, 0.794 mmol), (prepared as described for the starting material in Example 242), in DMF (3 ml) containing potassium carbonate (137 mg, 0.993 mmol) was heated at 95° C. for 3.5 hours. After cooling the mixture was poured onto water and extracted with ethyl acetate. The organic layers were washed with water, brine, dried (MgSO4) and evaporated. The residue was triturated with ether, filtered and dried under vacuum to give 4-(6-fluoroindol-5-yloxy)-6-methoxy-7-(3-piperidinopropoxy)quinazoline (139 mg, 46%).

reactant | 4-chloro-6-methoxy-7-(3-piperidinopropoxy)quinazoline | 0.662 mmol, 222 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCCC1 | C17H22ClN3O2
reactant | 6-fluoro-5-hydroxyindole | 0.794 mmol, 120 mg | FC1=C(C=C2C=CNC2=C1)O | C8H6FNO
reactant | potassium carbonate | 0.993 mmol, 137 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 4-(6-fluoroindol-5-yloxy)-6-methoxy-7-(3-piperidinopropoxy)quinazoline | 139 mg, 46% | FC1=C(C=C2C=CNC2=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCCC1 | C25H27FN4O3
